US03953606
Preparation of (R)-(-)- 1,2,3,4-Tetrahydro-1-naphthylamine
The (R) amine is made in the same way as described in Example 8, but from the salt from N-benzoyl-(S)-glutamic acid. It has [α]D25 -54.0° (c 5.1, benzene).

reactant | N-benzoyl-(S)-glutamic acid | C(C1=CC=CC=C1)(=O)N[C@@H](CCC(=O)O)C(=O)O | C12H13NO5
reactant | benzene | C1=CC=CC=C1 | C6H6
product | (R)-(-)- 1,2,3,4-Tetrahydro-1-naphthylamine | [C@H]1(CCCC2=CC=CC=C12)N | C10H13N
